US08709615B2
Dibenzo[b,d]furan-4-ylboronic acid (9.5 g, 44.8 mmol), 2,5-dichloropyridine (7.0 g, 47.0 mmol), Pd(PPh3)4 (2.6 g, 2.2 mmol) and potassium carbonate (18.6 g, 134 mmol) were added to dimethoxyethane (75 mL) and water (75 mL). The reaction mixture was degassed with nitrogen before being heated to reflux overnight. EtOAc and water were added, the organic layer separated and the aqueous layer was extracted with 3×50 mL dichloromethane and dried over sodium sulfate. After removing the solvent under reduced pressure, the crude product was chromatographed on silica gel with dichloromethane to yield 11.7 g of crude product. The product was crystallized from hexane to give 9.5 g (76%) of 5-chloro-2-(dibenzo[b,d]furan-4-yl)pyridine as white needles. The product was confirmed by GC/MS.

reactant | Dibenzo[b,d]furan-4-ylboronic acid | 44.8 mmol, 9.5 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | 2,5-dichloropyridine | 47.0 mmol, 7.0 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | potassium carbonate | 134 mmol, 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 75 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 2.2 mmol, 2.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 75 mL | O | H2O
product | 5-chloro-2-(dibenzo[b,d]furan-4-yl)pyridine | 9.5 g, 76% | ClC=1C=CC(=NC1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C17H10ClNO
